US06660753B2
In a similar fashion, 3-(2-pyridyl)-5-(5-bromo-pyrid-3-yl)-1,2,4-oxadiazole (42 mg, 0.1385 mmol), 3-thiopheneboronic acid (26.6 mg, 0.208 mmol), and Pd(PPh3)4 (24.0 mg, 0.021 mmole) in a solution of 2M sodium carbonate (1.5 mL) and ethylene glycol dimethyl ether (1.5 mL) was heated overnight at 105° C. Standard work up afforded 3.2 mg (8%) of 3-(2-pyridyl)-5-[5-(3-thienyl)-pyrid-3-yl ]-1,2,4-oxadiazole.

reactant | 3-(2-pyridyl)-5-(5-bromo-pyrid-3-yl)-1,2,4-oxadiazole | 0.1385 mmol, 42 mg | N1=C(C=CC=C1)C1=NOC(=N1)C=1C=NC=C(C1)Br | C12H7BrN4O
reactant | 3-thiopheneboronic acid | 0.208 mmol, 26.6 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 2M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.021 mmole, 24.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethylene glycol dimethyl ether | 1.5 mL | COCCOC | C4H10O2
product | 3-(2-pyridyl)-5-[5-(3-thienyl)-pyrid-3-yl ]-1,2,4-oxadiazole | 3.2 mg, 8% | N1=C(C=CC=C1)C1=NOC(=N1)C=1C=NC=C(C1)C1=CSC=C1 | C16H10N4OS
